US04812463
4-Butanoyloxyphenylsulfonylmethanesulfonamide
4-hydroxyphenylsulfonylmethanesulfonamide (0.4 g) was dissolved in 12 ml of tetrahydrofuran. Pyridine (0.15 ml) was added to the solution followed by 0.30 ml of butyric anhydride. The mixture was stirred overnight at room temperature then the solvent was removed under vacuum. The solid thus obtained was washed with water, filtered, and dried under vacuum at 60° C. The solid was recrystallized twice from dichloroethane. m.p. 160°-161° C. N.M.R. (DMSO, d6); δ 0.97 (t, 3), 1.68 (q, 2), 2.56 (t, 2), 5.22 (s, 2), 7.43 (s, 2 overlapping d, 2), 8.02 (d, 2). Anal. Calc'd for C11H15NO6S2 : C, 41.11; H, 4.71; N, 4.36; M.W. 321.36. Found: C. 41.01; H. 4.66; N, 4.25.

reactant | 4-hydroxyphenylsulfonylmethanesulfonamide | 0.4 g | OC1=CC=C(C=C1)S(=O)(=O)CS(=O)(=O)N | C7H9NO5S2
reactant | Pyridine | 0.15 ml | N1=CC=CC=C1 | C5H5N
reactant | butyric anhydride | 0.30 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 4-Butanoyloxyphenylsulfonylmethanesulfonamide | C(CCC)(=O)OC1=CC=C(C=C1)S(=O)(=O)CS(=O)(=O)N | C11H15NO6S2
